* HSPICE file created from VOTERN3X1.ext - technology: sky130A

.option scale=5m

.subckt VOTERN3X1 YN A B C VDD GND
X0 GND B x1/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=2.39n pd=0.111m as=15.7n ps=0.599m w=602 l=30
X2 GND B x3/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=43n pd=2.68m as=77.2n ps=2.61m w=602 l=30
X4 GND C x5/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=0 pd=0 as=77.2n ps=2.61m w=602 l=30
X6 x7/a_805_1331 B VDD VDD sky130_fd_pr__pfet_01v8 ad=11.6n pd=0.458m as=22.4n ps=0.912m w=400 l=30
X8 VDD B x7/a_805_1331 VDD sky130_fd_pr__pfet_01v8 ad=21.6n pd=0.908m as=11.6n ps=0.458m w=400 l=30
X9 YN C x3/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=2.39n pd=0.111m as=15.8n ps=0.594m w=602 l=30
X10 x7/a_805_1331 A VDD VDD sky130_fd_pr__pfet_01v8 ad=0.114u pd=4.57m as=67.2n ps=2.74m w=400 l=30
X11 VDD A x7/a_805_1331 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X12 x13/a_174_n399 C x7/a_805_1331 VDD sky130_fd_pr__pfet_01v8 ad=23.2n pd=0.916m as=0 ps=0 w=400 l=30
X14 x7/a_805_1331 C x13/a_174_n399 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X15 x7/a_893_1059 B x7/a_805_1331 VDD sky130_fd_pr__pfet_01v8 ad=90.4n pd=3.65m as=0 ps=0 w=400 l=30
X16 x7/a_805_1331 B x7/a_893_1059 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X17 YN C x7/a_893_1059 VDD sky130_fd_pr__pfet_01v8 ad=46.4n pd=1.83m as=0 ps=0 w=400 l=30
X18 x7/a_893_1059 C YN VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X19 YN A x7/a_893_1059 VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X20 x7/a_893_1059 A YN VDD sky130_fd_pr__pfet_01v8 ad=0 pd=0 as=0 ps=0 w=400 l=30
X21 YN A x1/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=2.39n pd=0.111m as=15.6n ps=0.592m w=602 l=30
X22 YN A x5/a_0_0 GND sky130_fd_pr__nfet_01v8 ad=2.4n pd=0.112m as=15.8n ps=0.594m w=602 l=30
.ends

** hspice subcircuit dictionary
* x1	votern3x1_pcell_0/nmos_top_0
* x3	votern3x1_pcell_0/nmos_bottom_1
* x5	votern3x1_pcell_0/nmos_bottom_2
* x7	votern3x1_pcell_0
* x13	votern3x1_pcell_0/pmos2_1_2
